US08389527B2
6-Chloro-8-((4-methoxybenzyl)(phenyl)amino)-N-(2-methylpyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (100 mg, 0.201 mmol) and (trans)-cyclohexane-1,4-diamine (9459 mg, 4.016 mmol) were heated at 160° C. for 1 hour. The reaction mixture was dissolved in TFA (5 mL) and heated at 70° C. for 2 hours. The reaction mixture was concentrated, dissolved in methanol and purified by preparative HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) 30% B (Solvent B=90% MeOH-10% H2O-0.1% TFA) to 100% B in A (Solvent A=10% MeOH-90% H2O-0.1% TFA) to afford 6-((trans-4-aminocyclohexyl)amino)-8-anilino-N-(2-methyl-4-pyridinyl)imidazo[1,2-b]pyridazine-3-carboxamide (39 mg, 48.5% yield) as a white solid. LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA). Rt=1.320 minutes, [M+H]=457.28. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.35-11.58 (1H, m), 9.33 (1H, s), 8.48-8.74 (1H, m), 8.14 (1H, s), 7.93-8.04 (1H, m), 7.87 (3H, d, J=4.28 Hz), 7.59-7.81 (1H, m), 7.31-7.52 (3H, m), 7.07-7.26 (1H, m), 6.87-7.06 (1H, m), 6.29 (1H, s), 3.53-3.77 (1H, m), 2.93-3.22 (1H, m), 2.65 (3H, s), 2.05-2.25 (2H, m), 1.87-2.09 (2H, m), 1.09-1.52 (4H, m).

reactant | 6-Chloro-8-((4-methoxybenzyl)(phenyl)amino)-N-(2-methylpyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.201 mmol, 100 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)C)N(C2=CC=CC=C2)CC2=CC=C(C=C2)OC | C27H23ClN6O2
reactant | (trans)-cyclohexane-1,4-diamine | 4.016 mmol, 9459 mg | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-((trans-4-aminocyclohexyl)amino)-8-anilino-N-(2-methyl-4-pyridinyl)imidazo[1,2-b]pyridazine-3-carboxamide | 39 mg, 48.5% yield | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)C)NC2=CC=CC=C2 | C25H28N8O
